* D:\UTN\Nivel 4\Teoría de los circuitos 2\Repositorio\TC2\Trabajos Semanales\TS5\Ej3.asc
V1 N001 0 AC 1
R1 0 Vo 3
L1 N002 N001 0.5
C1 Vo N002 0.5
.ac dec 100k 0.001 1k
.backanno
.end
