* D:\UTN\Nivel 4\Teoría de los circuitos 2\Repositorio\TC2\Trabajos Semanales\TS3\PasaAltos.asc
R1 N009 N008 1k
L1 0 N010 29.138m
C1 VoPas N004 99.4834n
R2 N004 N002 414.21
L2 0 VoPas 29.138m
C2 N010 N009 99.4834n
XU1 N002 N010 N002 opamp Aol=100K GBW=10Meg
V1 N008 0 AC 1
R3 N006 N005 1k
C3 VoAct N003 99.4834n
R4 N003 N001 414.21
C4 N007 N006 99.4834n
XU2 N001 N007 N001 opamp Aol=100K GBW=10Meg
V2 N005 0 AC 1
R5 N007 N013 1k
R6 N014 N011 1k
R7 N011 N017 34.31945k
R8 N017 0 1k
C5 N013 N014 1µ
XU3 N014 N007 N011 opamp Aol=100K GBW=10Meg
XU4 N014 N017 N013 opamp Aol=100K GBW=10Meg
R9 VoAct N015 1k
R10 N016 N012 1k
R11 N012 N018 34.31945k
R12 N018 0 1k
C6 N015 N016 1µ
XU5 N016 VoAct N012 opamp Aol=100K GBW=10Meg
XU6 N016 N018 N015 opamp Aol=100K GBW=10Meg
.inc opamp.sub
.ac dec 100 1 1meg
.backanno
.end
