* D:\UTN\Nivel 4\Teoría de los circuitos 2\Repositorio\TC2\Trabajos Semanales\TS4\SeccionesPasivas.asc
XU1 N007 N001 N004 opamp Aol=100Meg GBW=1000Meg
RB N007 0 10k
RA N004 N007 107.6608089k
R1 N002 N004 10k
C1 N002 0 5.7740014n
L1 N002 0 9.06396m
R2 N003 N005 10k
C2 N003 0 10.4818721n
L2 N003 0 4.0710055m
R3 Vo_Pas N006 10k
C3 Vo_Pas 0 12.85556617n
L3 Vo_Pas 0 4.992942723m
V1 N001 0 AC 1
RD N014 0 10k
RC N011 N014 107.6608089k
V2 N010 0 AC 1
R1A N008 N011 20k
R1B N008 0 20k
C4 N008 0 5.7740014n
R1L1 N012 N008 1k
CL1 N009 N012 1n
R2L1 Vo1 N009 9.06396k
R3L1 N013 Vo1 20k
R4L1 0 N013 20k
R2A N015 Vo1 20k
R2B N015 0 20k
C5 N015 0 10.4818721n
R1L2 N017 N015 1k
CL2 N016 N017 1n
R2L2 Vo2 N016 4.0710055k
R3L2 N018 Vo2 20k
R4L2 0 N018 20k
R3A N019 Vo2 20k
R3B N019 0 20k
C6 N019 0 12.85556617n
R1L3 N021 N019 1k
CL3 N020 N021 1n
R2L3 Vo_Act N020 4.992942723k
R3L3 N022 Vo_Act 20k
R4L3 0 N022 20k
XU2 N005 N002 N005 opamp Aol=100Meg GBW=1000Meg
XU3 N006 N003 N006 opamp Aol=100Meg GBW=1000Meg
XU4 N014 N010 N011 opamp Aol=100Meg GBW=1000Meg
XU5 N009 N008 Vo1 opamp Aol=100Meg GBW=1000Meg
XU6 N009 N013 N012 opamp Aol=100Meg GBW=1000Meg
XU7 N016 N015 Vo2 opamp Aol=100Meg GBW=1000Meg
XU8 N016 N018 N017 opamp Aol=100Meg GBW=1000Meg
XU9 N020 N019 Vo_Act opamp Aol=100Meg GBW=1000Meg
XU10 N020 N022 N021 opamp Aol=100Meg GBW=1000Meg
.ac dec 1000 1k 1meg
.inc opamp.sub
.backanno
.end
