* D:\UTN\Nivel 4\Teoría de los circuitos 2\Repositorio\TC2\Trabajos Semanales\TS6\TS6.asc
C1 N001 N004 {C}
R1 N001 0 9k
R2 N005 N001 8k
R3 N003 N005 {R}
R4 N002 N003 {R}
C2 N006 N002 {C}
R5 N006 N004 {R}
XU1 N003 N006 N005 opamp Aol=10000Meg GBW=1000Meg
XU2 N003 N001 N002 opamp Aol=10000Meg GBW=1000Meg
V1 N004 0 AC 1
C3 Vo N002 53.0516477n
R6 Vo 0 10k
.param R 10125
.param C 58.94627522n
.ac dec 10000 0.01 100k
.inc opamp.sub
.backanno
.end
