* D:\UTN\Nivel 4\Teoría de los circuitos 2\Repositorio\TC2\Trabajos Semanales\TS13\Simulaciones Circuitales\Punto1.asc
I1 0 N001 AC 1
R1 N003 N002 2
R2 N002 N001 10
R3 0 N001 5
C1 N003 N002 125m
C2 N002 N001 100m
RL N003 0 1
.ac dec 10k 0.001 1k
.backanno
.end
