* D:\UTN\Nivel 4\Teoría de los circuitos 2\Repositorio\TC2\Trabajos Semanales\TS14\Simulaciones Circuitales\Punto1.asc
L1 N001 N002 1
C1 N002 0 2
L2 N002 V2 1
V1 N001 0 AC 1 Rser=1
Ro V2 0 1
.ac dec 100k 0.04 1
.net I(Ro) V1
.backanno
.end
