* D:\UTN\Nivel 4\Teoría de los circuitos 2\Repositorio\TC2\Trabajos Semanales\TS10\Simulaciones_LTspice\1-Cauer.asc
V1 N001 0 AC 1
L1 N001 N002 1
L2 N002 N003 4
C1 N002 0 0.5
C2 N003 0 0.1666666667
V2 N004 0 AC 1
C3 N005 N004 0.66666667
C4 N006 N005 0.08
L3 N005 0 1.25
L4 N006 0 5
.ac dec 100k 0.001 100
.backanno
.end
