* D:\UTN\Nivel 4\Teoría de los circuitos 2\Repositorio\TC2\Trabajos Semanales\TS11\Simulaciones_LTspice\2.asc
V1 N001 0 AC 1
C1 N001 0 1
R1 N001 0 0.5
L1 N001 N002 0.25
R2 N003 N002 62.5m
C2 N003 0 4923.077m
R3 N003 0 270.833m
.ac dec 100k 0.001 100
.backanno
.end
